US05091387
3-Cyanomethylindene (3.84 g, 0.025 mol), prepared as described in example 14, was dissolved in a mixture of hexane and THF and stirred under nitrogen at -78°. Dissobutylaluminum hydride (DIBAL) (19.2 ml of a 1.5M solution in toluene; 0.029 mmol) was added and the mixture stirred at ambient temperature 2.5 hours. Saturated sodium chloride solution (220 ml) was added and the mixture stirred another 20 minutes. 5% H2SO4 (90 ml) was added and the solution immediately extracted with ether. The ether layer was dried over sodium sulfate, filtered, and evaporated to dryness in vacuo. The residue was chromatographed on a silica gel column eluted with 8% Et2O in hexane. The product fraction was evaporated to dryness to provide 2-(1H-indene-1-yl)acetaldehyde.

reactant | 3-Cyanomethylindene | 0.025 mol, 3.84 g | C(#N)CC1=CCC2=CC=CC=C12 | C11H9N
reactant | hydride | [H-]
reactant | sodium chloride | 220 ml | [Cl-].[Na+]
reactant | H2SO4 | 90 ml | OS(=O)(=O)O | H2O4S
solvent | hexane | CCCCCC | C6H14
solvent | THF | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(1H-indene-1-yl)acetaldehyde | C1(C=CC2=CC=CC=C12)CC=O | C11H10O
